US06642250B2
A mixture of 5-bromopentanoic acid (6.9 g, 38 mmol) and triphenylphosphine (10 g, 38 mmol) in dry acetonitrile (30 ml) was heated under reflux overnight. Evaporation of solvent yielded crystals. The resultant crystals were washed with a small amount of acetonitrile and dried at room temperature under reduced pressure to afford a target product, (4-carboxybutyl)-triphenylphosphonium bromide (14.6 g, 87%), which was used in the next step without any further treatment.

reactant | 5-bromopentanoic acid | 38 mmol, 6.9 g | BrCCCCC(=O)O | C5H9BrO2
reactant | triphenylphosphine | 38 mmol, 10 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | (4-carboxybutyl)-triphenylphosphonium bromide | 14.6 g, 87% | [Br-].C(=O)(O)CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C23H23O2P.BrH/c24-23(25)18-10-11-19-26(20-12-4-1-5-13-20,21-14-6-2-7-15-21)22-16-8-3-9-17-22;/h1-9,12-17H,10-11,18-19H2;1H
